US09353108B2
D) Ethyl 2-cyclopropyl-6-ethoxy-4′-fluorobiphenyl-4-carboxylate
A mixture of ethyl 2-ethoxy-4′-fluoro-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate (15.6 g), cyclopropylboronic acid (7.67 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (2.20 g), a 2 M aqueous sodium carbonate solution (53.6 mL), tris(dibenzylideneacetone)dipalladium(0) (2.29 g), and toluene (60 mL) was stirred at 100° C. for 2 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature and then poured to water, followed by extraction with ethyl acetate. The obtained organic layer was washed with saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (10.5 g).

reactant | ethyl 2-ethoxy-4′-fluoro-6-(((trifluoromethyl)sulfonyl)oxy)biphenyl-4-carboxylate | 15.6 g | C(C)OC1=C(C(=CC(=C1)C(=O)OCC)OS(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)F | C18H16F4O6S
reactant | cyclopropylboronic acid | 7.67 g | C1(CC1)B(O)O | C3H7BO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 2.20 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | sodium carbonate | 2 M, 53.6 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.29 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-cyclopropyl-6-ethoxy-4′-fluorobiphenyl-4-carboxylate | 10.5 g | C1(CC1)C1=C(C(=CC(=C1)C(=O)OCC)OCC)C1=CC=C(C=C1)F | C20H21FO3
